US06809110B2
In analogy to the procedure described in example 10 c], [rac]-2-ethoxy-3-(4-hydroxy-2-methyl-phenyl)-propionic acid ethyl ester (example 10 b]) was reacted with 2-[2-(4-methoxy-phenyl)-thiazol-4-yl]-ethanol (prepared from 4-methoxy-thiobenzamide and 1,3-dichloroacetone in analogy to the procedure described in example 4 a] to yield 4-chloromethyl-2-(4-methoxy-phenyl)-thiazole, followed by side chain elongation in analogy to the sequence described in example 13 a] to 13 d]) in the presence of triphenylphosphine and di-tert-butyl azodicarboxylate to yield [rac]-2-ethoxy-3-(4-{2-[2-(4-methoxy-phenyl)-thiazol-4-yl]-ethoxy}-2-methyl-phenyl)-propionic acid ethyl ester as light yellow solid.

reactant | [rac]-2-ethoxy-3-(4-hydroxy-2-methyl-phenyl)-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)O)C)OCC)=O | C14H20O4
reactant | 2-[2-(4-methoxy-phenyl)-thiazol-4-yl]-ethanol | COC1=CC=C(C=C1)C=1SC=C(N1)CCO | C12H13NO2S
reactant | 4-methoxy-thiobenzamide | COC1=CC=C(C(=S)N)C=C1 | C8H9NOS
reactant | 1,3-dichloroacetone | ClCC(=O)CCl | C3H4Cl2O
product | 4-chloromethyl-2-(4-methoxy-phenyl)-thiazole | ClCC=1N=C(SC1)C1=CC=C(C=C1)OC | C11H10ClNOS
